Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.63719280764
[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:7][C:8]([H:9])([H:10])[H:11],0.234599305339
[C:3](=[O:4])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]([C:2])[H:5]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-0.92234576325
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.74670096456
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:4][C:7]([H:8])[H:9].[H:3][C:5]([H:6])[H:10],3.72168967318
[C:2](#[C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[O:1]>>[O:1]=[C:2]([C:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-2.80731451713
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.20068435554
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.3045008736
[C:5](=[O:6])[H:7].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[H:7],-4.306772061
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-7.63333262915
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-2.9579181618
[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.787898011269999
[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.48864520987
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4][H:5])[C:10]([C:9]=[C:6]([H:7])[H:8])([H:11])[H:12],1.64606968937
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.97784066647
[C:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:11]([H:12])([H:13])[H:14].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],3.97286759375
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2](=[O:5])=[C:7]([H:8])[C:9]([H:10])[H:11].[O:1]([C:3][H:4])[H:6],3.56550570998
[O:1]=[C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11],1.33723325714
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:4],3.97841618944
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])[H:11],4.2740355797800005
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-1.65247542078
[H:1][C:2][O:3][C:4][C:10]([C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],-4.88620269684
[H:1][O:2][C:3]=[C:4]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:5][H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.0190118716
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]=[O:8])[O:10][H:11].[H:9]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-1.77258940459
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.434175497
[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.340601271689
[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],2.7567472167
[H:13].[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1[H:12]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-4.2210398109
